US07138425B2
a) 2-(3-Nitro-4-methoxyphenyl)-5-(3-trifluoromethylphenyl)benzoxazole
Prepared by the method of Example 15d), from 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole (200 mg, 0.57 mmol) and 3-trifluoromethylphenylboronic acid (163 mg, 0.86 mmol) the subtitle compound was obtained, (120 mg, 51%). 1H NMR (DMSO) δ 8.70(s, 1H), 8.52(d, 1H), 8.24(s, 1H), 8.11(s, 1H), 7.97(d, 1H), 7.86(d, 1H), 7.81(s, 2H), 7.68(d, 1H), 4.11(s, 3H). MS 415 m/z (M+H)+.

reactant | 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole | 0.57 mmol, 200 mg | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)Br | C14H9BrN2O4
reactant | 3-trifluoromethylphenylboronic acid | 0.86 mmol, 163 mg | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
product | 2-(3-Nitro-4-methoxyphenyl)-5-(3-trifluoromethylphenyl)benzoxazole | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)C2=CC(=CC=C2)C(F)(F)F | C21H13F3N2O4
